US06235789B1
1-(2-Aminoethylidene)-7-methoxy-1,2,3,4-tetrahydronaphthalene
To a solution of (1,2,3,4-tetrahydro-7-methoxy-1-naphthylidene)acetonitrile (15.0 g, 25 mmol) in ethanol (100 ml) were added a saturated ammonia/ethanol solution (30 ml) and Raney nickel (W-2, 3 g). The reaction mixture was stirred for 8 hours at 50° C. under hydrogen atmosphere (3-4 kgf /cm2). The Raney nickel was filtered off, then the solvent was distilled off under reduced pressure to give the above-titled compound (a mixture of isomers (20.4 g, yield 80%, oil). This compound was used in the subsequent reaction without further purification.

reactant | (1,2,3,4-tetrahydro-7-methoxy-1-naphthylidene)acetonitrile | 25 mmol, 15.0 g | COC1=CC=C2CCCC(C2=C1)=CC#N | C13H13NO
reactant | ammonia ethanol | 30 ml | N.C(C)O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 1-(2-Aminoethylidene)-7-methoxy-1,2,3,4-tetrahydronaphthalene | yield 80% | NCC=C1CCCC2=CC=C(C=C12)OC | C13H17NO
